US08669271B2
4-(2,5-Dichloro-pyridin-4-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester and 2,5-dichloro-4-iodo-pyridine following a procedure analogous to that described for Intermediate 27. LC (method 7): tR=1.66 min; Mass spectrum (ESI+): m/z=355 [M+H]+.

reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
reactant | 2,5-dichloro-4-iodo-pyridine | ClC1=NC=C(C(=C1)I)Cl | C5H2Cl2IN
product | 4-(2,5-Dichloro-pyridin-4-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=CC(=NC=C1Cl)Cl | C17H20Cl2N2O2
